US08236786B2
4a. Methanesulfonic acid 2-(5-ethyl-pyridin-2-yl)-ethyl ester
To a solution of 2-(5-ethyl-pyridine-2-yl)-ethanol (25.34 g) and triethylamine (46.7 mL) in DCM (130 mL) at 0° C. under nitrogen was added methane sulfonyl chloride (15.56 mL), then the reaction mixture was allowed to warm to room temperature and stirred overnight. A further portion of methane sulfonyl chloride (3.88 mL) was added and the reaction stirred for 30 min. The reaction was diluted with DCM and washed with H2O and brine. The organic layer was dried (MgSO4) and the solution concentrated to give the title compound as a red oil (38.24 g). 1H NMR (400 MHz, CDCl3): δ 8.39 (d, J=2.2 Hz, 1H), 7.47 (dd, J=7.7, 2.3 Hz, 1H), 7.14 (d, J=7.7 Hz, 1H), 4.64 (t, J=6.5 Hz, 2H), 3.19 (t, J=6.5 Hz, 2H), 2.90 (s, 3H), 2.64 (q, J=7.6 Hz, 2H), 1.25 (t, J=7.6 Hz, 3H).

reactant | 2-(5-ethyl-pyridine-2-yl)-ethanol | 25.34 g | C(C)C=1C=CC(=NC1)CCO | C9H13NO
reactant | triethylamine | 46.7 mL | C(C)N(CC)CC | C6H15N
reactant | methane sulfonyl chloride | 15.56 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | methane sulfonyl chloride | 3.88 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | DCM | 130 mL | C(Cl)Cl | CH2Cl2
product | Methanesulfonic acid 2-(5-ethyl-pyridin-2-yl)-ethyl ester | 38.24 g | C(C)C=1C=CC(=NC1)CCOS(=O)(=O)C | C10H15NO3S
